### PR TITLE
[stdlib] filter_length

### PR DESCRIPTION
**Pull request by haansn08**
Adds `filter_length: length (filter l) <= length l`.

### CODE REVIEW

File: theories/Lists/List.v [hunk 1]
```diff
@@ -1479,10 +1479,18 @@ End Fold_Right_Recursor.
     Lemma concat_filter_map : forall (l : list (list A)),
       concat (map filter l) = filter (concat l).
     Proof.
-      intro l; induction l as [| v l IHl]; [auto|].
+      intro l; induction l as [| v l IHl]; [reflexivity|].
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1482]:
```suggestion
      intro l; induction l as [| v l IHl]; [auto|].
```

...or is this change necessary?

**Review by andres-erbsen — APPROVED** [review]
Thank you for the contribution. I left some suggestions inline.

File: theories/Lists/List.v [hunk 2]
```diff
@@ -1479,10 +1479,18 @@ End Fold_Right_Recursor.
...
       simpl. rewrite IHl. rewrite filter_app. reflexivity.
     Qed.
 
+    Lemma filter_length l: length (filter l) <= length l.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1486]: I'm not sure we'll ever want an exact expression for the length of a filter, but just in case, what do you think of the following name:

```suggestion
    Lemma filter_length_bound l: length (filter l) <= length l.
```

**Comment by andres-erbsen** [comment]
@coqbot run ci

**Comment by JasonGross** [comment]
Do we also want something like `length (filter f l) + length (filter (fun x => negb (f x)) l) = length l`?

**Comment by andres-erbsen** [comment]
I agree that accepting a mere inequality as "the" lemma for length of filter seems dissatisfying in some way, but I don't see where I'd want a lemma where the implied length is expressed in terms of filter itself or using essentially a reimplementation of it such as sum (map Nat.of_bool . ). Thus, I am inclined to stick with the proposed version.

**Comment by andres-erbsen** [comment]
@coqbot run full ci

File: theories/Lists/List.v (hunk 1 above)
Comment (haansn08) [reply theories/Lists/List.v:1482]: I just noticed that the less powerful `reflexivity` is also sufficient here.

**Comment by haansn08** [comment]
Maybe we rename the lemma `filter_length_le` and an equality condition `filter_length_iff: length (filter l) = length l <-> forallb l`?

File: theories/Lists/List.v [hunk 3]
```diff
@@ -1483,6 +1483,25 @@ End Fold_Right_Recursor.
       simpl. rewrite IHl. rewrite filter_app. reflexivity.
     Qed.
 
+    Lemma filter_length_le l: length (filter l) <= length l.
+    Proof.
+      induction l as [|x l IH]; [reflexivity|].
+      cbn. destruct (f x).
+      - apply le_n_S. exact IH.
```
Comment (olaure01) [inline theories/Lists/List.v:1490]:
```suggestion
      - apply -> Nat.succ_le_mono. exact IH.
```
so that all statements about `nat` come from `PeanoNat.Nat`

File: theories/Lists/List.v [hunk 4]
```diff
@@ -1483,6 +1483,25 @@ End Fold_Right_Recursor.
...
+      - rewrite IH. apply Nat.le_succ_diag_r.
+    Qed.
+
+    Lemma filter_length_iff l: length (filter l) = length l <-> forallb l = true.
```
Comment (olaure01) [inline theories/Lists/List.v:1494]: One might consider decomposing the equivalence into:
* `length (filter l) = length l -> forallb l = true` (new lemma)
* `forallb l = true -> filter l = l` (new lemma)
* `filter l = l -> length (filter l) = length l` (does not require a lemma)

**Comment by haansn08** [comment]
@olaure01 Done. I also split up `filter_length_iff` as you suggested.

File: theories/Lists/List.v [hunk 5]
```diff
@@ -1483,6 +1483,14 @@ End Fold_Right_Recursor.
       simpl. rewrite IHl. rewrite filter_app. reflexivity.
     Qed.
 
+    Lemma forallb_filter_id l: forallb l = true -> filter l = l.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1486]:
```suggestion
    Lemma filter_forallb l: forallb l = true -> filter l = l.
```

File: theories/Lists/List.v [hunk 6]
```diff
@@ -1613,6 +1621,29 @@ End Fold_Right_Recursor.
       intros f g H l. rewrite filter_map. apply map_ext. assumption.
     Qed.
 
+    Lemma partition_filter f (l : list A) : partition f l = (filter f l, filter (fun x => negb (f x)) l).
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1624]:
```suggestion
    Lemma partition_using_filter f (l : list A) : partition f l = (filter f l, filter (fun x => negb (f x)) l).
```

Comment (andres-erbsen) [reply theories/Lists/List.v:1624]:
```suggestion
    Lemma partition_as_filter f (l : list A) : partition f l = (filter f l, filter (fun x => negb (f x)) l).
```

File: theories/Lists/List.v [hunk 7]
```diff
@@ -1613,6 +1621,29 @@ End Fold_Right_Recursor.
...
+      - cbn. rewrite IH. destruct (f x); reflexivity.
+    Qed.
+
+    Corollary filter_length f (l : list A) : length (filter f l) + length (filter (fun x => negb (f x)) l) = length l.
+    Proof. symmetry. apply (partition_length f), partition_filter. Qed.
+
+    Corollary filter_length_le f (l : list A): length (filter f l) <= length l.
+    Proof. rewrite <- (filter_length f l). apply Nat.le_add_r. Qed.
+
+    Lemma filter_length_forallb f (l : list A): length (filter f l) = length l -> forallb f l = true.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1637]:
```suggestion
    Lemma forallb_filter f (l : list A): length (filter f l) = length l -> forallb f l = true.
```

**Review by andres-erbsen — COMMENTED** [review]
Just naming suggestions.

File: theories/Lists/List.v (hunk 7 above)
Comment (olaure01) [reply theories/Lists/List.v:1637]: I find good to have `length` in the name.
I would rather keep `forallb_filter` for something like: `forallb f (filter f l) = true`.

File: theories/Lists/List.v (hunk 5 above)
Comment (haansn08) [reply theories/Lists/List.v:1494]: I now added `forallb_filter: forallb f (filter f l) = true` too as @olaure01 suggested. I think I still prefer `forallb_filter_id`, because if we use `filter_forallb` name we would have two very similar names `forallb_filter` and `filter_forallb`...

**Comment by andres-erbsen** [comment]
Ok, looks good. Please add a [changelog entry](https://github.com/coq/coq/blob/110921a449fcb830ec2a1cd07e3acc32319feae6/doc/changelog/README.md#how-to-add-an-entry).

**Comment by haansn08** [comment]
@andres-erbsen Ok, changelog entry added and commits squashed.

**Comment by andres-erbsen** [comment]
@coqbot run full ci

I intend to merge if CI passes

**Comment by andres-erbsen** [comment]
@coqbot merge now

**Comment by andres-erbsen** [comment]
@coqbot merge now
